US04795755
Acrylonitrile (0.8 g.) was added to a solution of 1-(2-hydroxyethyl)-3-[2-(2,2,2-trifluoroethyl)guanidino]pyrazole (2.51 g.) in acetonitrile (10 ml.). Benzyltrimethylammonium hydroxide (40% w/v aqueous solution; 10 μl) was added. After stirring at room temperature for 1 hour, the solution was evaporated to dryness in vacuo, and the residue purified by medium pressure chromatography using triethylamine/EtOH/EtOAc 1:1:9 v/v/v as eluant to give 1-[2-(2-cyanoethoxy)ethyl]-3-[2-(2,2,2-trifluoroethyl)guanidino]pyrazole (1.0 g.) having the following n.m.r. spectrum in d6DMSO: 7.6 (d, 1H); 5.8 (d, 1H); 4.2 (m, 2H); 4.1 (t, 2H); 3.8 (t, 2H); 3.6 (t, 2H); 2.7 (t, 2H).

reactant | Acrylonitrile | 0.8 g | C(C=C)#N | C3H3N
reactant | 1-(2-hydroxyethyl)-3-[2-(2,2,2-trifluoroethyl)guanidino]pyrazole | 2.51 g | OCCN1N=C(C=C1)NC(=NCC(F)(F)F)N | C8H12F3N5O
reactant | Benzyltrimethylammonium hydroxide | 10 μl | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-[2-(2-cyanoethoxy)ethyl]-3-[2-(2,2,2-trifluoroethyl)guanidino]pyrazole | 1.0 g | C(#N)CCOCCN1N=C(C=C1)NC(=NCC(F)(F)F)N | C11H15F3N6O
